US06277861B1
7-Amino-2,4,4,-trimethyl-4H-isoquinoline-1,3-dione
7-Nitro-2,4,4-trimethyl-4H-isoquinoline-1,3-dione (45 g, 20 mmol) was dissolved in a methanol (500 ml)/dichloromethane (100 ml) mixture and treated with 10% Pd/C (0.5 g). The reaction mixture was hydrogenated for 2 h before removal of the palladium catalyst by filtration through Celite. The filtrate was evaporated to dryness in vacuo to give the title compound (4.4 g, quant).

reactant | 7-Nitro-2,4,4-trimethyl-4H-isoquinoline-1,3-dione | 20 mmol, 45 g | [N+](=O)([O-])C1=CC=C2C(C(N(C(C2=C1)=O)C)=O)(C)C | C12H12N2O4
solvent | methanol | 500 ml | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 7-Amino-2,4,4,-trimethyl-4H-isoquinoline-1,3-dione | 4.4 g | NC1=CC=C2C(C(N(C(C2=C1)=O)C)=O)(C)C | C12H14N2O2
